data/mechanism_extracts/ACSCatal/10.1021_acscatal.0c03808.json
{"doi": "10.1021_acscatal.0c03808", "journal": "ACSCatal", "is_review": false, "rxn_class_summary": "Visible-light/Ir-photosensitized energy-transfer dearomatization of indole-tethered O-methyl oximes leading divergently to indoline-fused azetidines via [2+2] cycloaddition or to benzindolizidines via 1,5-hydrogen atom transfer.", "mechanism_family": ["photoredox_combined", "biradical", "direct_SET"], "electrochemical_role": null, "key_intermediates": [{"name": "Ir(dFppy)3 triplet photosensitizer (*PC)", "smiles": null, "role": "reactive"}, {"name": "Triplet diradical of indole-oxime substrate (3a-T1) after energy transfer, spin density at C2/C3 with elongated C2-C3 (1.51 Å)", "smiles": null, "role": "transient"}, {"name": "Cyclized triplet diradical INT1 (C2-N(oxime) bond formed, radicals on C3 and on oxime carbon)", "smiles": null, "role": "transient"}, {"name": "Open-shelled singlet diradical INT1-OSS (after ISC via MECP1)", "smiles": null, "role": "reactive"}, {"name": "Indoline-fused azetidine (kinetic [2+2] product, e.g. 2a, 4f')", "smiles": null, "role": "transient"}, {"name": "Benzindolizidine (thermodynamic 1,5-HAT product, e.g. 4a, 4f)", "smiles": null, "role": "reactive"}], "electron_flow": "Ir(dFppy)3 is excited by blue LEDs and transfers triplet energy to the indole-tethered oxime, generating a triplet diradical localized on the indole C2/C3; intramolecular C-N bond formation with the oxime gives a triplet 1,4-diradical that undergoes ISC (MECP1) to the open-shelled singlet diradical, which either closes by radical-radical combination (TS2, low barrier, kinetic [2+2] azetidine) or undergoes 1,5-HAT (TS3, higher barrier, thermodynamic benzindolizidine); for C3-alkyl substrates the [2+2] adduct is re-opened under light back to the diradical and funneled to the HAT product.", "rate_determining_step": "For the divergence, the C-C bond-forming [2+2] closure proceeds via TS2 (41.6 kcal/mol, ΔG‡ ≈ 3.4 kcal/mol from INT1-OSS, kinetic product) while 1,5-HAT via TS3 (55.5 kcal/mol, ΔG‡ ≈ 17.3 kcal/mol) is the higher-barrier, thermodynamically controlled step; reversible visible-light-promoted C-N homolysis of the [2+2] adduct ultimately controls product distribution.", "probe_reagents": [{"name": "Stern-Volmer quenching with substrate 1a vs indoline analogue 1a'", "smiles": null, "purpose": "redox_probe", "observation": "1a efficiently quenches Ir(dFppy)3* luminescence (Ksv = 54750), while 1a' does not (slope ≈ -250), indicating energy/electron transfer requires the indole chromophore."}, {"name": "Cyclic voltammetry of 1a", "smiles": null, "purpose": "redox_probe", "observation": "Redox potentials inconsistent with photoredox SET; supports energy-transfer mechanism via triplet state."}, {"name": "Dark control / no photosensitizer control", "smiles": null, "purpose": "other", "observation": "0% yield without light or without Ir(dFppy)3, confirming photosensitizer- and light-dependence."}, {"name": "Isolation of [2+2] adduct 4f' and time-course 1H NMR monitoring of 3f", "smiles": null, "purpose": "intermediate_trap", "observation": "4f' isolated and X-ray characterized (CCDC 2011330); under light it is reconsumed to regenerate 3f and accumulate 4f, demonstrating reversible [2+2] and irreversible 1,5-HAT."}, {"name": "4f' stability test in absence of light/Ir(dFppy)3", "smiles": null, "purpose": "intermediate_trap", "observation": "4f' is stable without light or photosensitizer, showing that C-N homolysis is a visible-light-promoted process."}, {"name": "DFT calculations at (U)B3LYP/6-31G(d,p)", "smiles": null, "purpose": "other", "observation": "Located T1 (3a-T1 53.0), TS1/TS1' (62.7/64.5), INT1 (38.4), MECP1 (42.2), INT1-OSS (38.2), TS2 (41.6, [2+2]) and TS3 (55.5, 1,5-HAT); supports kinetic vs thermodynamic divergence."}], "evidence_types_used": ["UV_vis", "cyclic_voltammetry", "on/off_light_or_current", "DFT", "isolation_of_intermediate", "intermediate_trap_other", "stoichiometric_intermediate"], "evidence_strength": "strong", "notes": "Two competing pathways from the same open-shelled singlet diradical INT1-OSS: [2+2] cycloaddition (kinetic, favored for R'=H/Me without C3-alkyl, gives indoline-fused azetidines) vs 1,5-HAT (thermodynamic, requires C3-alkyl substituent providing the transferable C-H, gives benzindolizidines). Selectivity is switched by substrate substitution (C3-H vs C3-alkyl) and by reaction time / dilution; the [2+2] adduct is a kinetically formed but photochemically reversible intermediate that funnels to the HAT product. Mechanism proceeds via energy transfer (triplet sensitization), not photoredox SET, as supported by Stern-Volmer and CV. Bridged indene-fused substrate 3o gives only [2+2] product (4o') because the geometry precludes 1,5-HAT."}
